US06013632
N-Acetyl-L-cysteine is synthesized by the methods of Smith, J. Org. Chem. 26, 820 (1961). Twenty grams of cystine are dissolved in 200 ml of water containing 12 g of sodium hydroxide, and 40 ml of acetic anhydride is added dropwise with stirring and cooling in an ice bath over a period of 30 minutes. The solution is allowed to stand at room temperature 1 hr, then heated to 55° C. and zinc dust added. The solution is stirred for 15 minutes, cooled, and centrifuged to remove unchanged zinc. To a portion of the centrifugate 1 M lead acetate is added. The mercaptide is centrifuged, washed, and decomposed with hydrogen sulfide. The lead sulfide is removed by filtration and the filtrate lyophilized. Further purification is accomplished by dissolving in isopropyl alcohol followed by precipitation with dry ether, and repeating this procedure up to three times. See also U.S. Pat. No. 3,184,505, herein incorporated by reference for these purposes.

reactant | cystine | Twenty grams | C([C@@H](C(=O)O)N)SSC[C@@H](C(=O)O)N | C6H12N2O4S2
reactant | acetic anhydride | 40 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 200 ml, 12 g | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
catalyst | zinc | [Zn] | Zn
product | N-Acetyl-L-cysteine | C(C)(=O)N[C@@H](CS)C(=O)O | C5H9NO3S
